US05672750
(b) 4-Chloro-N-phenylphthalimide
A solution of 4-chlorophthalic anhydride (9.12 g, 500 mmol), aniline (4.65 g, 50 mmol), pyridine (12.01 g, 152 mmol) and DMAc (40 mL) was heated at 70° C. for 1 hour under argon. Acetic anhydride (20.0 g, 196 mmol) was added and the solution was allowed to stir at 80° C. for a total of 4 hours. The reaction mixture was cooled to ca. 5° C. and the crystalline solid removed by filtration, washed with acetone and methanol and dried in vacuo to give 9.0 g (70%) product which was recrystallized from acetic anhydride, mp 187°-189° C., (liturature melting point) 189.5°-191° C. 1H NMR(CDCl3) δ7.90 (d, J=1.6 Hz, 1), 7.88 (d, J=8.0 Hz, 1), 7.73 (dd, J=8.0, 1.6 Hz, 1), 7.50 (m, 2), 7.41 (m,3). 13C NMR (CDCl3) {1H} δ166.2, 165.9 141.1, 134.4, 133.5, 131.5, 129.9, 129.1, 128.2, 126.4, 124.9, 124.1.

reactant | 4-chlorophthalic anhydride | 500 mmol, 9.12 g | ClC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3ClO3
reactant | aniline | 50 mmol, 4.65 g | NC1=CC=CC=C1 | C6H7N
reactant | pyridine | 152 mmol, 12.01 g | N1=CC=CC=C1 | C5H5N
reactant | Acetic anhydride | 196 mmol, 20.0 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | DMAc | 40 mL | CC(=O)N(C)C | C4H9NO
product | 4-Chloro-N-phenylphthalimide | 9.0 g, 70% | ClC=1C=C2C(C(=O)N(C2=O)C2=CC=CC=C2)=CC1 | C14H8ClNO2
